US07598423B2
Synthesis of 3-{[4-(tert-butyldimethylsilanyloxymethyl)phenyl]-(S)-hydroxymethyl}-benzonitrile
Under a nitrogen purge, add 1.1M diethyl zinc in toluene (312.3 mL, 343.5 mmol) to 2,4,6-Tris-[4-(tert-butyl-dimethyl-silanyloxymethyl)-phenyl]-cylcotriboroxane (30.1 g, 40.4 mmol) at ambient temperature and stir. After 5 minutes, heat to 60° C. and stir overnight. Cool to −10° C. and add via syringe, a mixture of (R)-(−)-2-Piperidino-1,1,2-triphenylethanol (6.7 g, 18.7 mmol) in toluene (70 mL) and stir 30 minutes. Via syringe, add a mixture of 3-cyanobenzaldehyde (12.2 g, 93.3 mmol) in toluene (40 mL) and continue stirring at −10 to −5° C. After 4 hours, add a mixture of acetic acid (59.0 mL, 1030 mmol) and deionized water (14 mL) to the mixture over 20 minutes. Filter off the resulting solids and rinse with toluene (50 mL). Wash the filtrate sequentially with 0.5 N HCl (2×200 mL), water (2×100 mL), 0.5N NaOH (200 mL), and water (100 mL). Dry the organic layer over sodium sulfate, filter, and concentrate under reduced pressure to give a crude residue. Purify the residue by dissolving in acetonitrile (330 mL) and performing heptane extractions (1×66 mL, 5×33 mL). Concentrate the acetonitrile portion under reduced pressure to give the title compound as a clear, thick oil: 1H NMR (500 MHz, CDCl3) δ 0.04 (s, 6H), 0.87 (s, 9H), 4.64 (s, 2H), 5.74 (d, 1H), 6.08 (d, 1H), 7.22 (d, 2H, J=8.3 Hz), 7.33 (d, 2H, J=8.3 Hz), 7.49 (t, 1H), 7.64-7.68 (m, 2H), 7.78 (s, 1H). HPLC retention time: 6.3 minutes; Zorbax SB-C8 Rapid Resolution 4.6×75 mm 3.5-micron column. 220 nm wavelength, column temperature 30° C., 2 mL/min flow rate, A=0.1% H3PO4/milli-q water, B=Acetonitrile, Time=0 minute, 80% A, Time=0.5 minutes, 80% A, Time=7 minutes, 10% A, Time=8 minutes 10% A, Time=8.5 minutes 80% A, Time=9 minutes 80% A. Chiral assay retention time: desired isomer 7.1 minutes; 95.5% ee; ChiralCell AD-H 46×150 mm column, 240 nm wavelength, ambient column temperature, 0.8 mL/min flow rate. Eluent=1% 3A-Ethanol, 4% Methanol, 95% Heptane (v/v), isocratic run time=15 minutes.

reactant | diethyl zinc | 1.1M | C(C)[Zn]CC
reactant | 2,4,6-Tris-[4-(tert-butyl-dimethyl-silanyloxymethyl)-phenyl]-cylcotriboroxane | 40.4 mmol, 30.1 g | C(C)(C)(C)[SiH2]OC(C1=CC=C(C=C1)B1OB(OB(O1)C1=CC=C(C=C1)C(O[SiH2]C(C)(C)C)(C)C)C1=CC=C(C=C1)C(O[SiH2]C(C)(C)C)(C)C)(C)C | C39H63B3O6Si3
reactant | (R)-(−)-2-Piperidino-1,1,2-triphenylethanol | 18.7 mmol, 6.7 g | N1(CCCCC1)[C@@H](C(O)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C25H27NO
reactant | 3-cyanobenzaldehyde | 93.3 mmol, 12.2 g | C(#N)C=1C=C(C=O)C=CC1 | C8H5NO
reactant | acetic acid | 1030 mmol, 59.0 mL | C(C)(=O)O | C2H4O2
reactant | toluene | 70 mL | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 343.5 mmol, 312.3 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 14 mL | O | H2O
product | 3-{[4-(tert-butyldimethylsilanyloxymethyl)phenyl]-(S)-hydroxymethyl}-benzonitrile | [Si](C)(C)(C(C)(C)C)OCC1=CC=C(C=C1)[C@@H](C=1C=C(C#N)C=CC1)O | C21H27NO2Si
